US06759538B2
Synthesis of 2,2-Dichloro-N-(3-ethynylphenyl) Acetamide
3-Ethynylaniline (2.61 g, 22.3 mmol) was dissolved in anhydrous dichloromethane (20 mL) with triethylamine (3.1 mL, 22.3 mmol). The mixture was cooled in an ice-bath under nitrogen, then a solution of dichloroacetyl chloride (2.21 mL, 23 mmol) in anhydrous dichloromethane (20 mL) was added dropwise. After the addition was completed the ice-bath was removed and the mixture was stirred at room temperature for 2 h. The reaction mixture was then washed successively with water, 10% hydrochloric acid and saturated sodium bicarbonate solution. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give the title compound as a beige solid (m.p. 99-100° C.). NMR (300 MHz, CDCl3): 8.05 (broad s, 1H, NH), 7.69 (s, 1H), 7.62 (m, 1H), 7.33 (m, 2H), 6.04 (s, 1H), 3.10 ppm (s, 1H, acetylenic).

reactant | 3-Ethynylaniline | 22.3 mmol, 2.61 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | triethylamine | 22.3 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | 23 mmol, 2.21 mL | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2,2-Dichloro-N-(3-ethynylphenyl) Acetamide | ClC(C(=O)NC1=CC(=CC=C1)C#C)Cl | C10H7Cl2NO
